US09303065B2
8A. Ethyl 5-phenyl-1,3,4-thiadiazole-2-carboxylate
To a solution of ethyl 2-(2-benzoylhydrazinyl)-2-oxoacetate (1 g, 4.23 mmol) in dry THF (5 ml, 61.0 mmol) was added the Lawesson's Reagent (1.079 g, 2.67 mmol). The reaction was stirred at r.t. for 2 h without any reaction. The mixture was then heated to 50° C. and then heated to reflux. Additional Lawesson's Reagent (1.079 g, 2.67 mmol) was added and after 16 h at reflux, the reaction was halfway completed. The mixture was evaporated to dryness and the residue was purified by silica gel column chromatography (50% CH2Cl2/hexanes up to 100% CH2Cl2) to provide the title material (0.35 g, 35%). LC (Method B): 2.063 min, LCMS (APCI) calcd for C11H11N2O2S [M+H]+ m/z 235.05, found 235.0. 1H NMR (CDCl3, 400 MHz) δ ppm: 1.49 (t, J=1.00 Hz, 3H), 4.55 (q, J=1.00 Hz, 2H), 7.45-7.65 (m, 3H), 8.02-8.07 (m, 2H).

reactant | ethyl 2-(2-benzoylhydrazinyl)-2-oxoacetate | 4.23 mmol, 1 g | C(C1=CC=CC=C1)(=O)NNC(C(=O)OCC)=O | C11H12N2O4
reactant | THF | 61.0 mmol, 5 ml | C1CCOC1 | C4H8O
reactant | Lawesson's Reagent | 2.67 mmol, 1.079 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | Lawesson's Reagent | 2.67 mmol, 1.079 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | Ethyl 5-phenyl-1,3,4-thiadiazole-2-carboxylate | 0.35 g, 35% | C1(=CC=CC=C1)C1=NN=C(S1)C(=O)OCC | C11H10N2O2S
